US07622583B2
N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-methanesulfonamide
A 250 mL flask was charged with (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone (10.0 g, 43.1 mmol) and pyridine (43 mL) under nitrogen. To the resultant solution was added methanesulfonyl chloride (7.06 mL, 90.5 mmol) and the reaction was stirred at room temperature overnight. The following morning, the organics were concentrated in vacuo at 60° C., followed by hydrolysis of the bis-sulfonamide employing THF (65 mL) and sodium hydroxide (65 mL, 4.0 M). The resultant homogeneous solution was stirred at room temperature for 120 min. Upon completion of the hydrolysis, the THF was removed under reduced pressure and the pH of the aqueous layer was adjusted to 5-6 with 6 M HCl. The resultant solution was diluted with EtOAc and the organics were washed with 10% HCl and saturated sodium bicarbonate, dried with sodium sulfate, concentrated in vacuo, and purified via automated silica gel chromatography to generate the desired methanesulfonamide: MS (ES) (M+H)+ expected 311.0, found 311.1.

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 43.1 mmol, 10.0 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | pyridine | 43 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 90.5 mmol, 7.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 4.0 M, 65 mL | [OH-].[Na+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-methanesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C)C(=O)C1=CC=NC=C1 | C13H11ClN2O3S
